US07615648B2
N-{[2,4-Dichlorophenyl]methyl}-N-(tetrahydro-2H-pyran-4-yl)-1-tert-butyloxycarbonyl-(3R)-pyrrolidine-3-yl-methylamine
A mixture of N-(tetrahydro-2H-pyran-4-yl)-1-tert-butyloxycarbonyl-(3R)-pyrrolidine-3-yl-methylamine (0.36 g, 1.26 mmol), 2,4-dichlorobenzaldehyde (0.44 g, 2.52 mmol) and sodium triacetoxyborohydride (0.67 g, 3.15 mmol) in 1,2-dichloroethane (15 ml) is stirred at room temperature for 18 h. Water (2 ml) is added to the reaction mixture and stirring continued for 5 min. The organic phase is separated using a hydrophobic frit and evaporated. The resulting oil is dissolved in methanol and purified using a SCX-2 column (10 g), then washed with methanol. The basic product elutes with methanolic ammonia (2M). Evaporation gives the required compound as a colourless oil.

reactant | N-(tetrahydro-2H-pyran-4-yl)-1-tert-butyloxycarbonyl-(3R)-pyrrolidine-3-yl-methylamine | 1.26 mmol, 0.36 g | O1CCC(CC1)N(C)[C@H]1CN(CC1)C(=O)OC(C)(C)C | C15H28N2O3
reactant | 2,4-dichlorobenzaldehyde | 2.52 mmol, 0.44 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | sodium triacetoxyborohydride | 3.15 mmol, 0.67 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Water | 2 ml | O | H2O
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
product | N-{[2,4-Dichlorophenyl]methyl}-N-(tetrahydro-2H-pyran-4-yl)-1-tert-butyloxycarbonyl-(3R)-pyrrolidine-3-yl-methylamine | ClC1=C(C=CC(=C1)Cl)CN(C1CCOCC1)C[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C22H32Cl2N2O3
